.lib "/home/huda/.volare/gf180mcuD/libs.tech/ngspice/sm141064.ngspice" typical
* MOSFET-only Beta-Multiplier Voltage Reference (FINAL: T4 topology)
* Target: Vref = 1.2V @ VDD=3.3V, GF180MCU 3.3V
* Relaxed tempco (<200 ppm/C), power ~0.62mW (in 0.5-2mW band)
* All devices single-finger (nf=1) for router/LVS-friendly diode self-loops.
* Body: pfet_03v3 -> vdd, nfet_03v3 -> vss. Mirror 1:1:1, K=1.
*
* WHY nf=1 everywhere: the auto-router's PathFinder failed to physically
* merge the gate<->drain self-loop of multi-finger (nf>=2) diode-connected
* devices, splitting the shared reference net d1 and breaking LVS. Using
* nf=1 for every device (including all diodes) produces a LVS-clean layout
* ("Circuits match uniquely" with no property errors).
*
* Model libraries are included by the testbench - do NOT re-include here.

.subckt vref_1v2 vdd vss vref
* PMOS current mirror (1:1:1), all single-finger
XM3 d1 d1 vdd vdd pfet_03v3 L=1.25u W=4u nf=1
XM4 d2 d1 vdd vdd pfet_03v3 L=1.25u W=4u nf=1
XM5 vref d1 vdd vdd pfet_03v3 L=1.25u W=4u nf=1

* Beta-multiplier NMOS pair (K=1:1, single-finger)
XM1 d1 d1 vss vss nfet_03v3 L=1.25u W=4u nf=1
XM2 d2 d1 src2 vss nfet_03v3 L=1.25u W=4u nf=1

* Triode NMOS resistor (gate=VDD, deep triode degenerating element)
XM_r src2 vdd vss vss nfet_03v3 L=1.25u W=4u nf=1

* Output diode-connected NMOS load -> VREF (L=1u sets Vref near 1.2V)
XM6 vref vref vss vss nfet_03v3 L=1u W=4u nf=1

.ends
