.lib '/home/huda/.volare/gf180mcuD/libs.tech/ngspice/sm141064.ngspice' typical
.subckt ota_5t vdd vss inp inm out vb
XM1 tail vb vdd vdd pfet_03v3 L=1u W=4u nf=1
XM2 d1 inp tail vdd pfet_03v3 L=1u W=4u nf=1
XM3 out inm tail vdd pfet_03v3 L=1u W=4u nf=1
XM4 d1 d1 vss vss nfet_03v3 L=1u W=2u nf=1
XM5 out d1 vss vss nfet_03v3 L=1u W=2u nf=1
.ends