* AC Gain + Phase (for GBW and PM)
.include '/home/huda/.volare/gf180mcuD/libs.tech/ngspice/design.ngspice'
.lib '/home/huda/.volare/gf180mcuD/libs.tech/ngspice/sm141064.ngspice' typical
.include ota_5t.spice

X1 vdd vss inp inm out vb ota_5t
Vdd vdd 0 DC 3.3
Vss vss 0 DC 0
Vb vb 0 DC 2.3
Vinp inp 0 DC 1.65 AC 1
Vinm inm 0 DC 1.65
CL out 0 1p

.control
ac dec 100 1 1e9
wrdata ac_full_pre.dat vdb(out) vp(out) frequency
.endc
.END
