.subckt ota_5t vdd vss inp inm out vb
XM1  net1 inp net2 vss nfet_03v3 L=1u W=4u nf=4
XM2  out  inm net2 vss nfet_03v3 L=1u W=4u nf=4
XM3  net1 net1 vdd vdd pfet_03v3 L=1u W=4u nf=4
XM4  out  net1 vdd vdd pfet_03v3 L=1u W=4u nf=4
XM5  net2 vb  vss vss nfet_03v3 L=1u W=4u nf=4
.ends
